US08809544B2
20.37 g (92.2 mmol) of 2-t-butoxycarbonyl amino-6-methylpyridine was dissolved in 100 mL of chloroform, and the resulting solution was cooled with ice water. 25 g (101.4 mmol) of a 70% by weight product of meta-chloroperbenzoic acid was added thereto. After confirming that there is no large heat generation, the temperature was raised to room temperature. After 2 hours had elapsed, 20 mL of water was added thereto. Then, the pH was adjusted to 14 by adding an aqueous solution of caustic soda having a concentration of 28%. Following liquid separation, the resulting aqueous layer was extracted with chloroform. The chloroform layer was washed with a 28% aqueous solution of caustic soda and then with water, and then dried with magnesium sulfate. Chloroform was removed by distillation under reduced pressure to obtain 21.30 g of 2-t-butoxycarbonyl amino-6-methylpyridine-N-oxide (yield: 99.6%) in a light orange oily form.

reactant | 2-t-butoxycarbonyl amino-6-methylpyridine | 92.2 mmol, 20.37 g | C(C)(C)(C)OC(=O)C1=NC(=CC=C1N)C | C11H16N2O2
reactant | meta-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 20 mL | O | H2O
reactant | caustic soda | [OH-].[Na+]
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-t-butoxycarbonyl amino-6-methylpyridine-N-oxide | 21.30 g, yield: 99.6% | C(C)(C)(C)OC(=O)C1=[N+](C(=CC=C1N)C)[O-] | C11H16N2O3
